US05514773
The suspended solution of benzyl R)-3-(4-aminophenyl)-2-hydroxypropionate (0.27 g), bis(2-chloroethyl)ether (0.12 ml), potassium carbonate (0.28 g), and sodium iodide (0.075 g) in dimethylformamide (1 ml) were heated at 70°-90° C. for 7 hours. After cooling it down to room temperature, water (50 ml) was added and extracted with ether (25 ml×3). After the ether layer was washed with saturated brine, it was dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo, the resultant crude product was purified by silica gel column chromatography, and eluted with mixture of hexane, ethyl acetate and ethanol (60:35:5, v/v). The fractions containing the desired product were combined and evaporated in vacuo to obtain benzyl (R)-2-hydroxy-3-(4-morpholinophenyl)propionate (0.14 g)

reactant | 3-(4-aminophenyl)-2-hydroxypropionate | 0.27 g | NC1=CC=C(C=C1)CC(C(=O)[O-])O
reactant | bis(2-chloroethyl)ether | 0.12 ml | ClCCOCCCl | C4H8Cl2O
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.075 g | [I-].[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | benzyl (R)-2-hydroxy-3-(4-morpholinophenyl)propionate | 0.14 g | O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)N1CCOCC1 | C20H23NO4
